US07713990B2
3-(3,4-Dichloro-phenoxy)-8-(1-methyl-1H-tetrazol-5-ylmethyl)-8-aza-bicyclo[3.2.1]octane
3-(3,4-Dichloro-phenoxy)-8-(1H-tetrazol-5-ylmethyl)-8-aza-bicyclo[3.2.1]octane (5 g) in 50 ml of N,N-dimethylformamide was added 3 ml of triethylamine and stirred under a nitrogen atmosphere. Iodomethane (2 ml) was added drop wise. The reaction mixture was stirred at room temperature overnight and poured into 100 ml of water. The mixture was extracted with diethyl ether, which was dried with magnesium sulphate and evaporated to an oil, the oil was triturated in dry diethyl ether. Yield 0.55 g (11%) Mp. 119-120° C.

reactant | 3-(3,4-Dichloro-phenoxy)-8-(1H-tetrazol-5-ylmethyl)-8-aza-bicyclo[3.2.1]octane | 5 g | ClC=1C=C(OC2CC3CCC(C2)N3CC3=NN=NN3)C=CC1Cl | C15H17Cl2N5O
reactant | triethylamine | 3 ml | C(C)N(CC)CC | C6H15N
reactant | Iodomethane | 2 ml | IC | CH3I
reactant | water | 100 ml | O | H2O
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 3-(3,4-Dichloro-phenoxy)-8-(1-methyl-1H-tetrazol-5-ylmethyl)-8-aza-bicyclo[3.2.1]octane | ClC=1C=C(OC2CC3CCC(C2)N3CC3=NN=NN3C)C=CC1Cl | C16H19Cl2N5O
